* PSpice Model Editor - Version 16.2.0
*$
* CSD25404Q3
***********************************************************************
*  (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD25404Q3
* Date: 11/05/2015
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS570 –OCTOBER 2015
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
**********************************************************************
**********************************************************************
*                                                                    *
*  CSD25404Q3  -  P-Channel 20/12 QFN3x3							 *
*                                                                    *
**********************************************************************
**********************************************************************
*   PSpice Model "CSD25404Q3"  - case NOM typical
*
*   OrCAD PSpice MOS model level 7 = BSIM3 v3.3.2
*
* Characteristics:
*   Assembly:      QFN3x3 clip
*   Ron at 10A:    5.5 mOhms @4.5Vgs;  10.1 mOhms @2.5Vgs
*   Target Vth:    -0.9
*   Die Thick:     4 mils
*
**********************************************************************
*  Model History:
*   orig created from datasheet report                 TR, 10/14/2015
*
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
*******************************************************************
.SUBCKT CSD25404Q3  1 2 3
 .PARAM  pWidth {1.95*2.3779/1.95}
 .PARAM  perim  6.00
M1  10 11 12 12 PMOS W={pWidth} L=0.45u PD={perim} PS={perim}
DBD  7  8	DBD	{2.3779/1.95}
RBD  7  8	{1E9/2.3779*1.95}
CBD  7  8	{12e-12*2.3779/1.95}
ccc 11 10	{35e-12*2.3779/1.95}
DGD 11 13	DGD {2.3779/1.95}
DDG 10 13	DDG {2.3779/1.95}
*CGSR  5  99 {200E-9*2.3779/1.95}
*RGSRG	99	8	{4000/2.3779*1.95}
LGG  2  5	0.87e-9
RGG  5 11	0.8
RSB 12  9	RTEMP {1.4E-3/2.3779*1.95-0.25e-3}
RSS  9  8   RTEMP {0.6e-3/2.3779*1.95-0.25e-3}
RSX  8  6	{0.25E-6/2.3779*1.95}
LSS  6  3	0.08E-9
RDD  7 10   RTEMP {2.80e-3/2.3779*1.95}
RDX  4  7	{0.50E-3/2.3779*1.95}
LDD  1  4	0.43E-9
******************************************************************* 
.MODEL  PMOS   PMOS (    LEVEL   = 7             Version = 3.2
+ TNOM    = 27           CAPMOD  = 2             LINT   = 0.02e-6
+ TOX     = 2.00E-8      NCH     = 1.35e17       NSUB   = 5.0e15
+ A0      = 1.0          A1      = 0.0           A2     = 1.0
+ UA      = 0.10E-09     UB      = 2.0E-19       VBM    = -5
+ UA1     = 0.00e-9      UB1     = -0.0e-18      UTE    = -1.50
+ KT1     = -0.525       KT2     = 0.02          KT1L   = 1e-14
+ Dvt0    = 2.3          Dvt1    = 0.55          Dvt2   = -0.03
+ PDIBLC1 = 0.05         PDIBLC2 = 0.015         B0     = 0.02
+ VOFF    = -0.25        NFACTOR = 2.10          NLX    = 1.70e-7
+ ETA0    = 0.03         ETAB    = -0.05         XJ     = 6.0e-7
+ PSCBE1  = 8.0e8        PSCBE2  = 3.0e-4		 U0		= 600	
+ DELTA   = 1.0          DSUB    = 1.0           DROUT  = 0.7
+ CJ      = 1e-18        CJSW    = 1e-18         CF     = 0
+ CGSO    = 190e-12      CGDO    = 1e-18         CGBO   = 0 )
******************************************************************* 
.MODEL DBD D (CJO=1750E-12 VJ=0.85 M=0.37 RS=0.50e-3 TRS1=5e-3 
+ TRS2=1e-7 FC=0.5 TT=3E-9 IS=1.50e-12 N=1.01 XTI=3.5 BV=22.0)
*******************************************************************
.MODEL DGD D (CJO=1.50e-10 VJ=0.40 M=0.90 FC=0.5 IS=1E-14 RS=0.1)
.MODEL DDG D (CJO=1.50E-10 VJ=0.40 M=0.90 FC=0.5 IS=1E-14 RS=0.1)
******************************************************************* 
.MODEL RTEMP RES (TC1=3.00E-3  TC2=-3.2E-09)
******************************************************************* 
.ENDS CSD25404Q3
*$